US06110924
d) Preparation of 5-bromo-5-[3-(4-methoxyphenyl)propyl]barbituric acid
A mixture of 5-[3-(4-methoxyphenyl)propyl]barbituric acid (2.5 g), N-bromosuccinimide (2 g) and dibenzoyl peroxide (catalytic amount) in 110 ml of carbon tetrachloride is refluxed for about 1 hour then the solid which separated is filtered. The solid is redissolved in ethyl acetate and filtered through a silica gel cake in order to eliminate the succinimide residue. The organic phase is then concentrated to dryness and the residue is crystallized from diethylether/carbon tetrachloride mixture. A pale yellow solid separates which is filtered and dried under vacuum at 60° C. to give 2.8 g of the product. m.p. 113-114° C.

reactant | 5-[3-(4-methoxyphenyl)propyl]barbituric acid | 2.5 g | COC1=CC=C(C=C1)CCCC1C(NC(NC1=O)=O)=O | C14H16N2O4
reactant | N-bromosuccinimide | 2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 110 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-bromo-5-[3-(4-methoxyphenyl)propyl]barbituric acid | 2.8 g | BrC1(C(NC(NC1=O)=O)=O)CCCC1=CC=C(C=C1)OC | C14H15BrN2O4
